US08492437B2
To a stirred solution of 4-(4(2-tert-butoxy-2-oxoethyl)-2-((N-methylmethylsulfonamido)methyl)phenoxy)benzoic acid (50 mg, 0.111 mmol) and HATU (46.5 mg, 0.122 mmol) in DMF (1 ml) was added DIEA (23.2 μL, 0.133 mmol) followed by 2-(4-chlorophenyl)ethanamine (11.2 μL, 0.111 mmol). The reaction was diluted with water and extracted with ethyl acetate. The combined organics were washed with brine and dried over MgSO4. The crude product was purified by silica gel chromatography to give tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-((N-methylmethylsulfonamido)methyl)phenyl)acetate (0.0115 g).

reactant | 4-(4(2-tert-butoxy-2-oxoethyl)-2-((N-methylmethylsulfonamido)methyl)phenoxy)benzoic acid | 0.111 mmol, 50 mg | C(C)(C)(C)OC(CC1=CC(=C(OC2=CC=C(C(=O)O)C=C2)C=C1)CN(S(=O)(=O)C)C)=O | C22H27NO7S
reactant | HATU | 0.122 mmol, 46.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.133 mmol, 23.2 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-chlorophenyl)ethanamine | 0.111 mmol, 11.2 μL | ClC1=CC=C(C=C1)CCN | C8H10ClN
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-((N-methylmethylsulfonamido)methyl)phenyl)acetate | 0.0115 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)CN(S(=O)(=O)C)C)C=C2)C=C1 | C30H35ClN2O6S
